US06472404B1
The starting material 3-(ethanesulfonyl)-3-methylbutyric acid was prepared in a manner analogous to that described for the preparation of 3-(methanesulfonyl)-3-methylbutyric acid, the starting material usedfor Example 95, using iodoethane in place of iodomethane.

reactant | 3-(methanesulfonyl)-3-methylbutyric acid | CS(=O)(=O)C(CC(=O)O)(C)C | C6H12O4S
reactant | iodoethane | ICC | C2H5I
product | 3-(ethanesulfonyl)-3-methylbutyric acid | C(C)S(=O)(=O)C(CC(=O)O)(C)C | C7H14O4S
